US07067517B2
Methyl-(2-trifluoromethoxy-phenyl)-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from N-methyl-2-(trifluoromethoxy)-aniline and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (49%, colourless oil). HPLC-MS m/z=473.2 (M+1), Rt: 5.18 min.

reactant | N-methyl-2-(trifluoromethoxy)-aniline | CNC1=C(C=CC=C1)OC(F)(F)F | C8H8F3NO
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
product | Methyl-(2-trifluoromethoxy-phenyl)-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C1=C(C=CC=C1)OC(F)(F)F)C)=O)(F)F | C21H14F6N2O4
